US05635510
47.2 Synthesis of 1-benzyl-4-(4-fluoro-phenylamino)-piperidine-4-carboxylic acid amide
Cautiously combine 1-benzyl-4-(4-fluoro-phenylamino)-piperidine-4-carbonitrile (60 mmol) and concentrated sulfuric acid (270 mL). Let stand for 24 h at ambient temperature. Cautiously pour the reaction mixture into excess dilute ammonium hydroxide solution/ice. Extract with dichloromethane (3×300 mL). Combine the dichloromethane extracts and extract them using saturated NaHCO3 solution (3×300 mL). Dry the dichloromethane solution over magnesium sulfate, filter, and concentrate in vacuo to obtain a residue. Purify to obtain the title compound.

reactant | 1-benzyl-4-(4-fluoro-phenylamino)-piperidine-4-carbonitrile | 60 mmol | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)NC1=CC=C(C=C1)F | C19H20FN3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | sulfuric acid | 270 mL | S(O)(O)(=O)=O | H2O4S
product | 1-benzyl-4-(4-fluoro-phenylamino)-piperidine-4-carboxylic acid amide | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)N)NC1=CC=C(C=C1)F | C19H22FN3O
